US07875636B2
To a suspension of [4-(1-hydroxy-1methylethyl)phenyl]acetic acid (266 mg, 1.37 mmol), (1R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethylamine bis-hydrochloride (400 mg, 1.37 mmol), EDC (315 mg, 1.64 mmol), and 1-hydroxy-7-azabenzotriazole (224 mg, 1.64 mmol) in DMF (20 mL) was added N,N-diisopropylethylamine (741 uL, 4.25 mmol). The reaction mixture was stirred at room temperature overnight, then concentrated to ˜5 mL and diluted with CH2Cl2 (50 mL). The solution was washed with water (50 mL) and the aqueous layer was extracted with CH2Cl2 (2×30 mL). The combined organic layer was washed with water (50 mL), dried over MgSO4, concentrated and purified by normal phase chromatography (15-100% EtOAc/Hexanes) to give 270 mg (50%) of 2-[4-(1-hydroxy-1-methylethyl)phenyl]-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.20 (d, J=2.75 Hz, 1H), 7.45 (m, 2H), 7.22 (m, 4H), 6.68 (d, J=7.33 Hz, 1H), 5.11 (quint. J=6.96 Hz, 1H), 4.38 (q, J=8.00 Hz, 2H), 3.57 (s, 2H), 1.59 (s, 6H), 1.40 (d, J=6.77 Hz, 3H); MS (Electrospray): m/z 397.3 (M+H).

reactant | [4-(1-hydroxy-1methylethyl)phenyl]acetic acid | 1.37 mmol, 266 mg | OC(C)(C)C1=CC=C(C=C1)CC(=O)O | C11H14O3
reactant | (1R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethylamine bis-hydrochloride | 1.37 mmol, 400 mg | Cl.Cl.FC(COC=1C=CC(=NC1)[C@@H](C)N)(F)F
reactant | EDC | 1.64 mmol, 315 mg
reactant | 1-hydroxy-7-azabenzotriazole | 1.64 mmol, 224 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N-diisopropylethylamine | 4.25 mmol, 741 uL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[4-(1-hydroxy-1-methylethyl)phenyl]-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide | 270 mg, 50% | OC(C)(C)C1=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C20H23F3N2O3
